US07704995B2
3-Amino-6-[(hydroxyamino)(imino)methyl]-N-methylpyrazine-2-carboxamide (40 mg, 0.19 mmol) was taken into DMF (1.0 mL) followed by addition of PL-DIPAM (diisopropylaminomethyl) resin (200 mg, 2.33 mmol/g), THF (1.0 ML) and cyclopentanecarbonyl chloride (23.1 uL, 0.19 mmol). The mixture was agitated for one hour then filtered and the resin rinsed with THF (1.0 mL). To the filtrate solution was added tetra-N-butylammonium fluoride (TBAF) (1.0 M in THF, 20 0 uL) and the solution was allowed to stir at room temperature over 12 hours. The mixture was concentrated and the residue partitioned with ethyl acetate and water. The organic layer was washed with water (1×), 1.0 M aqueous hydrochloric acid (1×) then brine and dried over anhydrous magnesium sulfate. The material was filtered and concentrated then the residue purified by silica gel flash chromatography using ethyl acetate:hexanes (1:1) as eluent. The pure fractions were combined, concentrated and dried in vacuo to give 3-amino-N-methyl-6-(5-cyclopentyl-1,2,4-oxadiazol-3-yl)pyrazine-2-carboxamide (23.3 mg, 43% yield) as a colorless amorphous residue: MS (EI) for C13H16N6O2: 289 (MH+).

reactant | 3-Amino-6-[(hydroxyamino)(imino)methyl]-N-methylpyrazine-2-carboxamide | 0.19 mmol, 40 mg | NC=1C(=NC(=CN1)C(=N)NO)C(=O)NC | C7H10N6O2
reactant | DMF | 1.0 mL | CN(C)C=O | C3H7NO
reactant | DIPAM | 200 mg | CN1C(=O)CN=C(C2=C1C=CC(=C2)Cl)C3=CC=CC=C3 | C16H13ClN2O
reactant | cyclopentanecarbonyl chloride | 0.19 mmol, 23.1 uL | C1(CCCC1)C(=O)Cl | C6H9ClO
solvent | THF | C1CCOC1 | C4H8O
product | 3-amino-N-methyl-6-(5-cyclopentyl-1,2,4-oxadiazol-3-yl)pyrazine-2-carboxamide | 23.3 mg, 43% yield | NC=1C(=NC(=CN1)C1=NOC(=N1)C1CCCC1)C(=O)NC | C13H16N6O2
